US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 2-(1-pyrrolyl)benzylamine (122 mg, 0.708 mmol), Pd2(dba)3 (56 mg, 0.061 mmol), rac-BINAP (108 mg, 0.173 mmol) and NaOtBu (139 mg, 1.445 mmol) in DMA (5 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2-pyrrol-1-yl-benzylamino)-2H-phthalazin-1-one (33 mg) as an off white solid, 1H (400 MHz, d6-DMSO) δ: 4.22 (d, 2H), 6.26 (t, 2H), 6.60 (bs, 1H), 7.04 (t, 2H), 7.08 (d, 1H), 7.35 (m, 1H), 7.40 (m, 2H), 7.49 (m, 1H), 7.62 (t, 1H), 7.91 (d, 1H) ppm; m/z (M+1) 350.97.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-(1-pyrrolyl)benzylamine | 0.708 mmol, 122 mg | N1(C=CC=C1)C1=C(CN)C=CC=C1 | C11H12N2
reactant | rac-BINAP | 0.173 mmol, 108 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.445 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.061 mmol, 56 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-pyrrol-1-yl-benzylamino)-2H-phthalazin-1-one | 33 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)N1C=CC=C1)=O | C19H15ClN4O
